US07176242B2
Methyl 3-acetyl-1-butyl-1H-indole-6-carboxylate (2.00 g) was dissolved in methanol (100 mL). Sodium hydroxide (1N) was added until the mixture became slightly cloudy. Methanol was again added (20 mL) until the solution was clear. Sodium hydroxide was again added until the mixture was slightly cloudy. The mixture was allowed to stir at room temperature overnight. The solution was concentrated to half its original volume and hydrochloric acid (2N) was added until the aqueous layer indicated a pH of about one. The mixture was extracted with dichloromethane and the organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The resulting material was chromatographed on silica gel using MeOH/heptane/dichloromethane (4/20/76) to give 3-acetyl-1-butyl-1H-indole-6-carboxylic acid (1.60 g). MS (ESI+) for C15H17N1O3+H1 m/z 260.13 (M+H)+.

reactant | Methyl 3-acetyl-1-butyl-1H-indole-6-carboxylate | 2.00 g | C(C)(=O)C1=CN(C2=CC(=CC=C12)C(=O)OC)CCCC | C16H19NO3
reactant | Sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | 3-acetyl-1-butyl-1H-indole-6-carboxylic acid | 1.60 g | C(C)(=O)C1=CN(C2=CC(=CC=C12)C(=O)O)CCCC | C15H17NO3
